Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
2 episodes of melena and fainting
 
Major Surgical or Invasive Procedure:
ERCP and cautery of bleeding areas near base of papilla and apex

 
History of Present Illness:
HPI: 
___ female with the past medical of cholelithiasis s/p
CCY s/p ERCP w/ sphinceterotomy on ___ who presents with 2
episodes of melena and syncopal event.  She underwent ERCP and
EUS on ___, which was significant for small filling defects
in the lower CBD consistent with sludge and mild dilation of the
CBD.  She underwent sphincterotomy at that time with mild post
sphincterotomy oozing.  She was briefly admitted for observation
and subsequently discharged.

In the ED, initial VS were 97.4 83 102/64 16 100% RA.
Labs notable for an H/H of 9.0/27.1, decreased from 11.5/34.2
prior coags normal, BMP normal, ALT 147, AST 51.
She received esomeprazole sodium 40 mg.

Upon arrival to the floor, the patient tells the story as
follows.  She underwent ERCP on ___, which she reported was
uncomplicated.  Following discharge, she felt well, without
abdominal pain.  She completed her course of ciprofloxacin and 
is
No longer taking any medications.  On ___, she woke up and
had a large episode of dark tarry stools.  She subsequently was
walking around her house and trying to prepare breakfast for her
children, when she felt lightheaded and ill, and subsequently
fainted with brief loss of consciousness.  She denies chest pain
or shortness of breath surrounding her fall, but reports that 
she
felt nauseous, flushed, and sweaty following her fall.  Her son
was around and able to lower her down, and she denies head
strike.  On ___, she presented to her PCP where ___ CBC was
notable for worsening anemia, for which she was sent to the ED.

Past few days, she continues to endorse ongoing nausea,
lightheadedness, decreased appetite.  She reports that she is
afraid to eat.  She reports that "every time I swallow, I feel a
warm sensation or squeezing sensation" although denies specific
pain.  She otherwise denies chest pain, shortness breath,
dysuria, vomiting.  She had 2 episodes of melena, one occurring
on the morning of ___ the other occurring on the morning of
___.  She has had no mild movement since then.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Cholelithiasis s/p CCY
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
ADMISSION EXAM
VITALS: 98.5 PO 100 / 64 R Lying 70 18 98 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
VITALS: BP ___, HR 78 RR 18 O2: 100% RA
GENERAL: Alert and in no apparent distress
CV: RRR, no mrg
RESP: CTAB
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 
___ 11:00AM BLOOD WBC:6.6 RBC:4.68 Hgb:13.6 Hct:41.5 MCV:89
MCH:29.1 MCHC:32.8 RDW:12.4 RDWSD:40.7 Plt Ct:223
___ 06:55AM BLOOD WBC:6.3 RBC:3.89* Hgb:11.5 Hct:34.2 
MCV:88
MCH:29.6 MCHC:33.6 RDW:12.3 RDWSD:39.4 Plt Ct:193
___ 09:15PM BLOOD WBC:8.3 RBC:3.02* Hgb:9.0* Hct:27.1*
MCV:90 MCH:29.8 MCHC:33.2 RDW:12.9 RDWSD:42.1 Plt Ct:254
___ 09:15PM BLOOD ___ PTT:33.0 ___
___ 09:15PM BLOOD Glucose:104* UreaN:8 Creat:0.6 Na:141
K:3.6 Cl:101 HCO3:26 AnGap:14
___ 09:15PM BLOOD ALT:147* AST:51* AlkPhos:102 TotBili:0.4

EUS ___
Impression: 
•EUS was performed using a linear echoendoscope at ___ MHz
frequency: The head and uncinate pancreas were imaged from the
duodenal bulb and the second / third duodenum. 
•Bile duct: The bile duct was imaged at the level of the
porta-hepatis, head of the pancreas and ampulla. The CBD was
dilated at a maximum diameter of 10 mm. Multiple hyperechoic 
foci
consistent with sludge were noted in the CBD. A hyperechoic 
focus
with anechoic shadow consistent with a stone was seen in the
lower CBD.
 
ERCP ___
Impression: •The scout film showed surgical clips in the RUQ. 
•The major papilla was bulging. 
•The CBD was successfully cannulated using a Rx sphincterotome
preloaded with 0.035in guidewire. 
•Contrast injection revealed small filling defects in the lower
CBD consistent with sludge. The CBD was dilated up to
approximately 10mm in diameter. 
•A biliary sphincterotomy was successfully performed at the 12
o'clock position. There was mild post-sphincterotomy oozing. 
•Large amounts of dark thick bile was draining from the major
papilla after sphincterotomy. 
•The bile duct was swept multiple times using a biliary balloon
catheter. Moderate amount of sludge material was successfully
removed. 
•Occlusion cholangiogram revealed no more filling defects. There
was excellent contrast and bile drainage at the end of the
procedure. 
•It was noted that the post-sphincterotomy oozing has stopped by
the end of the procedure. 

ERCP ___
Evidence of a previous sphincterotomy was noted at the major 
papilla.
• There was no blood seen in the lumen of the duodenum. 
•There was a red spot noted at the base of the papilla which was 
cauterized by gold probe. 
•There was mild redness seen at the apex and was cauterized.
•Otherwise normal ercp to third part of the duodenum

 
Hemoglobin Trend: 
___: 13.6
___: 11.5
___: 9.0
___: 8.1
___ 
 
Brief Hospital Course:
SUMMARY: ___ female with the past medical of
cholelithiasis s/p CCY s/p ERCP w/ sphincterotomy on ___ who
presents after 2 episodes of melena and a syncopal event 
concerning
for a GIB. 

ACUTE/ACTIVE PROBLEMS:
# Acute blood loss anemia: Patient with a recent ERCP and
sphincterotomy, with 2 episodes of melena, and a downtrending 
H&H
of pre procedure hemoglobin 13.6 to 7.2. This was concerning for 
a possible post sphincterotomy bleed. Patient was initially 
started on an IV PPI. She underwent ERCP with cautery on ___. 
Following the procedure her HB stabilized between ___. She was 
still having relative hypotension that was fluid responsive. On 
day of discharge, patient with negative orthostatics and felt 
well ambulating. Patient was not discharged with a PPI given the 
etiology of her bleed. 

# Syncope: Patient presenting with a single episode of syncope,
occurring following acute blood loss, likely reflecting
hypovolemia. No other concerning symptoms such as chest pain,
shortness of breath. EKG unremarkable. No episodes of syncope, 
lightheadedness while hospitalized. 
- orthostatics negative on ___ and ___
- BP checks at home

# Transaminitis: Admission LFTs notable for ALT 147 AST 51,
downtrending from prior following ERCP with sphincterotomy. No
persistent abdominal pain. LFTs downtrended while hospitalized. 

TRANSITIONAL ISSUES
-Repeat CBC for hemoglobin in ___ weeks with PCP
-___ LFTs in ___ weeks with PCP 
-___ give patient prescription for a blood pressure cuff but 
should have her blood pressure checked early this week at a 
pharmacy

More than 30 minutes were spent on discharge planning
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GIB

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital after a gastrointestinal bleed 
following your recent ERCP. You had a large drop in your 
hemoglobin that explains your symptoms of dizziness and 
fainting. There was a red spot noted at the base of the papilla 
that was cauterized and some mild redness at the apex that was 
cauterized. We monitored your hemoglobin after the procedure, 
which remained stable between ___. We recommend you follow up 
with your primary care doctor this week to follow up on your 
blood counts. It may take a few weeks for your blood counts to 
fully recover. Please return to the hospital if you have 
frequent loose/watery dark bowel movements or feel dizzy or 
lightheaded. 

We will prescribe you a blood pressure cuff. If your BP is under 
90/50, please return to the hospital. You have be dehydrated. 

It was a pleasure taking care of you, 
Your ___ Team
 
Followup Instructions:
___